US05025025
To a solution of 8.5 g 5-hexen-1-ol in 100 mL tetrahydrofuran is added 14 mL dihydropyran followed by 0.5 g p-toluenesulfonyl chloride. The mixture is stirred at room temperature for 18 hours and then diluted with ether. The mixture is then washed with saturated aqueous sodium bicarbonate, dried, filtered and evaporated. The resulting oil is chromatographed over silica gel using hexane/ether (18:1) as eluent to give 6-(2-tetrahydropyranyloxy)-hex-1-ene; NMR (CDCl3): delta 5.85 (m,1H), 4.6 (brs,1H).

reactant | 5-hexen-1-ol | 8.5 g | C(CCCC=C)O | C6H12O
reactant | dihydropyran | 14 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonyl chloride | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 6-(2-tetrahydropyranyloxy)-hex-1-ene | O1C(CCCC1)OCCCCC=C | C11H20O2
